US05556853
In substantially the same manner as in Example 5, morpholine (275 μl) was condensed with Boc-3-(2-naphthyl)-L-alanine (900 mg, manufactured by Bachem Fein Chemikalien AG, Switzerland) to give N-[Boc-3-(2-naphthyl)-L-alanyl]morpholine (1.10 g) as a white powder (yield quantitative). After Boc group elimination with trifluoroacetic acid, the product was condensed with (2S,3S)-ethyl hydrogen trans-epoxysuccinate as obtained in Reference Example 8 (312 mg) to yield the title compound (compound 81; 695 mg) as a white powder (yield 84%).

reactant | morpholine | 275 μl | N1CCOCC1 | C4H9NO
reactant | Boc-3-(2-naphthyl)-L-alanine | 900 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC2=CC=CC=C2C=C1)C(=O)O | C18H21NO4
product | N-[Boc-3-(2-naphthyl)-L-alanyl]morpholine | 1.10 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC2=CC=CC=C2C=C1)C(=O)N1CCOCC1 | C22H28N2O4
